US07491710B2
90 mg of imidazole and 250 μl of diphenylphosphinyl chloride are added to a solution of 140 mg of 3-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-5-hydroxyindazole-1-carboxylic acid tert-butyl ester in 15 ml of dichloromethane. The reaction medium is stirred at ambient temperature overnight. After dilution with 10 ml of dichloromethane and 10 ml of distilled water, the medium is separated by settling out. The organic phase is dried over magnesium sulfate, filtered, and concentrated under reduced pressure in a rotary evaporator. The crude is taken up in a dichloromethane/methanol mixture and the solid is filtered off. After concentration under reduced pressure, the filtrate is purified by flash chromatography, eluent: cyclohexane/ethyl acetate 8:2 to obtain 200 mg of 3-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-5-(diphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester.

reactant | imidazole | 90 mg | N1C=NC=C1 | C3H4N2
reactant | diphenylphosphinyl chloride | 250 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | 3-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-5-hydroxyindazole-1-carboxylic acid tert-butyl ester | 140 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)O)C1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C25H29N3O5
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-5-(diphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C37H38N3O6P
